US05952336
Crude methyl 1-ethyl-3-(4-methylphenyl)-4-pyridinecarboxylate (prepared as described in U.S. Pat. No. 5,319,084 for the analogous ethyl ester) from 165 g of methyl 1-ethyl-1,2,5,6-tetrahydropyridinecarboxylate was dissolved in 1 L of aqueous 18% HCl and extracted with ether (300 ml) to remove bitolyl remaining as a byproduct from its synthesis. The aqueous solution was then refluxed for 48 hr and then concentrated under reduced pressure with added acetonitrile (azeotrope) to give crude 1-ethyl-1,2,5,6-tetrahydropyridinecarboxylic acid hydrochloride (283 g), which was dried thoroughly at 100° C. under high vacuum. As this material is very hygroscopic, it was stored under nitrogen. Thionyl chloride (150 mL) was added cautiously to neat 7 (45 g, 159 mmol) at 5° C. After the addition, the ice bath was removed; and the resulting homogeneous solution was stirred at room temperature for 4 h. Excess SOCl2 was removed in vacuo to give a dark, thick, pasty mass. To this material was added 1,2-dichloroethane (250 mL) and 30 mL of solvent was removed in vacuo in order to remove any residual SOCl2. To the turbid mixture was added AlCl3 (53 g, 397 mmol) in portions over a 45 min period. The temperature was controlled by means of a water bath at ca. 25° C. After the addition, the dark, red-brown, solution was stirred at 35-40° C. for an hour and then poured into a beaker containing ca. 400 g of crushed ice and 50 mL of conc. HCl. The aqueous layer was basified to pH of ca. 12 with 30% NaOH (ca. 350 mL) with cooling in an ice water bath. The resulting mixture was extracted with cooling in an ice water bath. The resulting mixture was extracted with ether (3×400 mL), and the combined ether layers were washed successively with water and brine, dried (MgSO4), filtered, and concentrated under reduced pressure to give an orange-red oil. This oil was distilled using a Kugelrohr apparatus (125-135° C. at 0.5 mm Hg) to give 21.6 g (59%) of ketone 7 as a bright yellow solid, with NMR properties identical with authentic material.

reactant | methyl 1-ethyl-3-(4-methylphenyl)-4-pyridinecarboxylate | C(C)N1CC(=C(C=C1)C(=O)OC)C1=CC=C(C=C1)C | C16H19NO2
reactant | methyl 1-ethyl-1,2,5,6-tetrahydropyridinecarboxylate | 165 g | C(C)N1C(C=CCC1)C(=O)OC | C9H15NO2
reactant | HCl | Cl | ClH
product | 1-ethyl-1,2,5,6-tetrahydropyridinecarboxylic acid hydrochloride | 283 g | Cl.C(C)N1C(C=CCC1)C(=O)O | InChI=1S/C8H13NO2.ClH/c1-2-9-6-4-3-5-7(9)8(10)11;/h3,5,7H,2,4,6H2,1H3,(H,10,11);1H
